US07700628B2
Preparation of 5-fluoro-N-(4-methoxy-2-nitrophenyl)-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide
Using methods substantially equivalent to those described in Example 118, 5-fluoro-N-(4-methoxy-2-nitrophenyl)-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide trifluoroacetate was prepared from 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one and 4-methoxy-2-nitroaniline.

reactant | 5-fluoro-N-(4-methoxy-2-nitrophenyl)-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide trifluoroacetate | FC(C(=O)O)(F)F.FC=1C=CC(=C(C(=O)NC2=C(C=C(C=C2)OC)[N+](=O)[O-])C1)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O
reactant | 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one | FC=1C=CC2=C(C(OC(=N2)C2=C(C=C(C=C2)N2CCCC2)OC2CCN(CC2)C)=O)C1 | C24H26FN3O3
reactant | 4-methoxy-2-nitroaniline | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
product | 5-fluoro-N-(4-methoxy-2-nitrophenyl)-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide | FC=1C=CC(=C(C(=O)NC2=C(C=C(C=C2)OC)[N+](=O)[O-])C1)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O | C31H34FN5O6
